US06716491B2
A suspension of 416 g of 4-bromo-2,6-difluoroaniline, 752 g of benzyl bromide and 608 g of potassium carbonate in 2 l of acetonitrile is refluxed for 48 hours. The mixture is subsequently evaporated in a rotary evaporator, the residue is dissolved in toluene and extracted with hydrochloric acid (10%), the toluene phase is evaporated in a rotary evaporator, and the product is stirred into heptane and stirred with silica gel for about 4.5 hours, filtered with suction and evaporated in a rotary evaporator, giving dibenzyl(4-bromo-2,6-difluorophenyl)amine, yield 85.6%.

reactant | 4-bromo-2,6-difluoroaniline | 416 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | benzyl bromide | 752 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 608 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 l | C(C)#N | C2H3N
product | dibenzyl(4-bromo-2,6-difluorophenyl)amine | yield 85.6% | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1F)Br)F)CC1=CC=CC=C1 | C20H16BrF2N
